US07705042B2
b) 4-Methyl-6′-(4-methyl-piperazin-1-yl)-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl
A flask was charged with 6′-chloro-4-methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl (210 mg, 0.820 mmol) (as prepared in the previous step), and 1-methylpiperazine (182 μL, 1.65 mmol) and the mixture was stirred at 145° C. for 3 h. Purification of the resulting residue by silica gel preparative TLC eluting with 10% methanol in dichloromethane yielded 202 mg (77%) of the title compound as yellow glass. 1H-NMR (400 MHz, CDCl3): δ 8.19 (d, 1H, J=9.2 Hz), 6.03 (d, 1H, J=9.2 Hz), 3.82 (m, 2H), 3.70 (m, 4H), 2.98 (m, 2H), 2.48 (m, 2H), 2.34 (s, 3H), 1.71-1.60 (m, 3), 1.35 (m, 2H), 0.97 (d, 3H, J=6.3 Hz). LC-MS (ESI, m/z): Calcd. for C16H26N5O2, 320.2 (M+H); found: 320.1.

reactant | 6′-chloro-4-methyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl | 0.820 mmol, 210 mg | ClC1=CC=C(C(=N1)N1CCC(CC1)C)[N+](=O)[O-] | C11H14ClN3O2
reactant | 1-methylpiperazine | 1.65 mmol, 182 μL | CN1CCNCC1 | C5H12N2
product | 4-Methyl-6′-(4-methyl-piperazin-1-yl)-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl | 202 mg, 77% | CC1CCN(CC1)C1=NC(=CC=C1[N+](=O)[O-])N1CCN(CC1)C | C16H25N5O2
